US06291475B1
(a) 4-(4-Cyanophenoxy)-1-chloro-2-butene
1,4-Dichlorobutene (750 g; 5 mol) was added to a stirred suspension of 4-cyanophenol (119.12 g; 1 mol) and K2CO3 (345 g; 2.5 mol) in MeCN (1000 mL) and the reaction mixture was refluxed for 4 h. The reaction mixture was filtered and concentrated. The residue was dissolved in di-iso-propyl ether (2000 mL) and after 24 h the precipitate was filtered off. The filtrate was concentrated giving the sub-title compound as a yellow oil which solidified upon standing (186 g; 0.89 mol).

reactant | 1,4-Dichlorobutene | 5 mol, 750 g | ClC=CCCCl | C4H6Cl2
reactant | 4-cyanophenol | 1 mol, 119.12 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | K2CO3 | 2.5 mol, 345 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 1000 mL | CC#N | C2H3N
product | 4-(4-Cyanophenoxy)-1-chloro-2-butene | C(#N)C1=CC=C(OCC=CCCl)C=C1 | C11H10ClNO
